US08039503B2
E44.4. Synthesis of 4-phenylspiro[cyclohexane-1,2′-naphtho[1,2-b][1,4]oxathiine]-5′,6′-dione (Compound 264)
The crude 1-(mercaptomethyl)-4-phenylcyclohexanol was then reacted with naphthalene-1,2-dione as outlined in procedure F [both step (i) and (ii)] to afford crude 4-phenylspiro[cyclohexane-1,2′-naphtho[1,2-b][1,4]oxathiine]-5′,6′-dione. The crude 4-phenylspiro[cyclohexane-1,2′-naphtho[1,2-b][1,4]oxathiine]-5′,6′-dione was purified by flash column chromatography (SiO2, 100% dichloromethane) to afford the product as a purple solid. M.p.=183-187° C.; 400 MHz 1H NMR (DMSO) δ: 7.92-7.78 (m, 3H), 7.60-7.56 (td, 1H), 7.34-7.18 (m, 5H), 3.09 (s, 2H), 2.71-2.66 (m, 1H), 2.20 (d, 2H), 1.90-1.72 (m, 6H); LCMS: 377 [M+H].

reactant | 1-(mercaptomethyl)-4-phenylcyclohexanol | SCC1(CCC(CC1)C1=CC=CC=C1)O | C13H18OS
reactant | naphthalene-1,2-dione | C1(C(C=CC2=CC=CC=C12)=O)=O | C10H6O2
product | 4-phenylspiro[cyclohexane-1,2′-naphtho[1,2-b][1,4]oxathiine]-5′,6′-dione | C1(=CC=CC=C1)C1CCC2(CSC3=C(O2)C2=CC=CC=C2C(C3=O)=O)CC1 | C23H20O3S
